US07645771B2
Preparation of N-[1-Ethyl-1-(4-(3-fluoro-phenyl)-4-{2-[3-(2-methyl-benzoimidazol-1-yl)-8-aza-bicyclo[3.2.1]oct-8-yl]-ethyl}-piperidine-1-carbonyl)-propyl]-acetamide
A solution of 2-Amino-2-ethyl-1-(4-(3-fluoro-phenyl)-4-{2-[3-(2-methyl-benzoimidazol-1-yl)-8-aza-bicyclo[3.2.1]oct-8-yl]-ethyl}-piperidin-1-yl)-butan-1-one (0.100 g, 0.178 mmol), acetyl chloride (0.014 g, 0.178 mmol) and DIEA (0.069 g, 0.534 mmol) were stirred at room temperature in DCM (3 ml) for 2 hours. Solvent was removed and compound was purified by RP-HPLC to yield 0.072 g (67%). 1H NMR (400 MHz, CDCl3) 7.67 (m, 1H), 7.40-7.29 (m, 2H), 7.18 (m, 2H), 7.09 (m, 1H), 6.99 (m, 2H), 4.60 (m, 1H) 4.04 (br, 2H), 3.32-3.23 (m, 4H), 2.74 (m, 2H), 2.57 (s, 3H), 2.36 (m, 2H), 2.20 (m, 2H), 2.01 (s, 3H), 1.92 (m, 6H), 1.82-1.63 9 (m, 10H), 0.78 (br, 5H). ES-LCMS m/z 602 (M+1).

reactant | 2-Amino-2-ethyl-1-(4-(3-fluoro-phenyl)-4-{2-[3-(2-methyl-benzoimidazol-1-yl)-8-aza-bicyclo[3.2.1]oct-8-yl]-ethyl}-piperidin-1-yl)-butan-1-one | 0.178 mmol, 0.100 g | NC(C(=O)N1CCC(CC1)(CCN1C2CC(CC1CC2)N2C(=NC1=C2C=CC=C1)C)C1=CC(=CC=C1)F)(CC)CC | C34H46FN5O
reactant | acetyl chloride | 0.178 mmol, 0.014 g | C(C)(=O)Cl | C2H3ClO
reactant | DIEA | 0.534 mmol, 0.069 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
product | N-[1-Ethyl-1-(4-(3-fluoro-phenyl)-4-{2-[3-(2-methyl-benzoimidazol-1-yl)-8-aza-bicyclo[3.2.1]oct-8-yl]-ethyl}-piperidine-1-carbonyl)-propyl]-acetamide | C(C)C(CC)(C(=O)N1CCC(CC1)(CCN1C2CC(CC1CC2)N2C(=NC1=C2C=CC=C1)C)C1=CC(=CC=C1)F)NC(C)=O | C36H48FN5O2
